US07485634B2
Preparation of Ethyl 3-(4-Fluorobenzoyl)-9-methoxy-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate
The title compound was prepared in a manner similar to that described in Example 2A by using ethyl 9-methoxy-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate and 4-fluorobenzoyl chloride; 1H-NMR (CDCl3): δ 10.42 (1H, br s), 7.98 (1H, s), 7.62 (2H, m), 7.28 (1H, m), 7.16 (2H, m), 6.93 (1H, d), 6.88 (1H, dd), 4.24 (4H, m), 3.88 (3H, s), 3.23 (2H, m), 1.23 (3H, t); MS (ES): 409 (MH+).

reactant | ethyl 9-methoxy-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | COC1=CC=2C3=C(NC2C=C1)C(=CNCC3)C(=O)OCC | C16H18N2O3
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | Ethyl 3-(4-Fluorobenzoyl)-9-methoxy-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | FC1=CC=C(C(=O)N2C=C(C=3NC=4C=CC(=CC4C3CC2)OC)C(=O)OCC)C=C1 | C23H21FN2O4
